US07678803B2
In a small microwave vial with a stir bar, 2-methoxyethanol (19.3 mg, 0.253 mmol) is dissolved in DMF (1 mL). To this solution is added sodium hydride (60% suspension in mineral oil, 10.13 mg, 0.2532 mmol) and the mixture is stirred at room temperature for 5 minutes and 1-(4-Amino-8-fluoro-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (42.8 mg, 0.126 mmol) is added. The reaction is sealed and placed in the microwave reactor where it is heated to 150° C. for 30 minutes. The reaction is cooled, quenched by adding 5 mL sat. NH4Cl (aq) and extracted with CH2Cl2 (3×1 mL). The combined organics are purified by silica gel chromatography by two gradient runs on the same column, the first 0% to 100% ethyl acetate in hexanes and the second 0% to 50% methanol in ethyl acetate. This gives the desired 1-[4-Amino-8-(2-methoxy-ethoxy)-quinazolin-7-yl]-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one as a tan powder (40 mg, 80% yield) (LC/MS m/z=395 [M+H]+).

reactant | 2-methoxyethanol | 0.253 mmol, 19.3 mg | COCCO | C3H8O2
reactant | sodium hydride | 0.2532 mmol, 10.13 mg | [H-].[Na+]
reactant | 1-(4-Amino-8-fluoro-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.126 mmol, 42.8 mg | NC1=NC=NC2=C(C(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)F | C19H19FN4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-[4-Amino-8-(2-methoxy-ethoxy)-quinazolin-7-yl]-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 40 mg, 80% yield | NC1=NC=NC2=C(C(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)OCCOC | C22H26N4O3
